US08536209B2
5-Phenyl-oxazole-4-carboxylic acid [2-(3-acetyl-benzyl)-2H-[1,2,3]triazol-4-yl]-amide
Following general procedure A followed by B, starting from 2-[3-(2-methyl-[1,3]dioxolan-2-yl)-benzyl]-2H-[1,2,3]triazol-4-ylamine and 5-phenyl-oxazole-4-carboxylic acid.

reactant | 2-[3-(2-methyl-[1,3]dioxolan-2-yl)-benzyl]-2H-[1,2,3]triazol-4-ylamine | CC1(OCCO1)C=1C=C(CN2N=CC(=N2)N)C=CC1 | C13H16N4O2
reactant | 5-phenyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C1=C(N=CO1)C(=O)O | C10H7NO3
product | 5-Phenyl-oxazole-4-carboxylic acid [2-(3-acetyl-benzyl)-2H-[1,2,3]triazol-4-yl]-amide | C(C)(=O)C=1C=C(CN2N=CC(=N2)NC(=O)C=2N=COC2C2=CC=CC=C2)C=CC1 | C21H17N5O3
